US07838524B2
(4-{3-tert-Butyl-5-[({[4-(pyridin-4-yloxy)phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl}Phenyl)acetic acid
To a suspension of ethyl(4-{3-tert-butyl-5-[({[4-(pyridin-4-yloxy)phenyl]-amino}carbonyl)amino]-1H-pyrazol-1-yl}phenyl)acetate (2.42 g, 4.72 mmol) in THF/H2O/EtOH (3:1:1, 50 mL) was added LiOH (0.34 g, 14.15 mmol) and the resulting reaction mixture was stirred at room temperature for 2.5 h. The mixture was evaporated at reduced pressure to afford a syrup-type residue. The residue was dissolved in 1N HCl, and then the acidity was adjusted to pH ˜7. The mixture was washed with EtOAc, and then the aqueous phase was acidified to pH 5-6. The white precipitate that formed was collected by filtration, washed with water and hexane, and air-dried to afford the product as a white solid (2.1 g) in 92% yield. 1H-NMR (DMSO-d6) δ 12.45 (broad, 1H), 9.64 (broad, 1H), 8.98 (broad, 1H), 8.38 (dd, JJ=1.6 Hz, 4.7 Hz, 2H), 7.51-7.42 (m, 4H), 7.36 (d, J=8.3 Hz, 2H), 7.05 (dd, JJ=2.1 Hz, 6.9 Hz, 2H), 6.84 (dd, JJ=1.6 Hz, 4.7 Hz, 2H), 6.31 (s, 1H), 3.58 (s, 2H), 1.27 (s, 9H); MS LC-MS [M+H]+=486.2, RT=2.39 min.

reactant | ethyl(4-{3-tert-butyl-5-[({[4-(pyridin-4-yloxy)phenyl]-amino}carbonyl)amino]-1H-pyrazol-1-yl}phenyl)acetate | 4.72 mmol, 2.42 g | C(C)OC(CC1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C(C)(C)C)=O | C29H31N5O4
reactant | LiOH | 14.15 mmol, 0.34 g | [Li+].[OH-]
solvent | THF H2O EtOH | 50 mL | C1CCOC1.O.CCO
solvent | HCl | 1N | Cl | ClH
product | (4-{3-tert-Butyl-5-[({[4-(pyridin-4-yloxy)phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl}Phenyl)acetic acid | 2.1 g, 92% yield | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(C=C1)CC(=O)O | C27H27N5O4
